US09107916B2
A. [4-fluoro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methanol
Charged (2-bromo-4-fluorophenyl)methanol (954 mg, 4.65 mmol), 4-fluoro-1-vinylbenzene (1.14 g, 9.31 mmol), Pd(PPh3)2Cl2 (49 mg, 0.07 mmol), Et3N (942 mg, 9.31 mmol) and DMF (5 mL) to a sealed tube, the mixture was then purged with nitrogen, heated to 150° C. for 3 h in microwave oven. The reaction mixture was filtered, the filtrate was then extracted with ethyl acetate, concentrated and purified by flash column chromatograph to give 569 mg of the title compound (50%). 1H NMR (400 MHz, CDCl3): δ 1.60 (1H, t, J=6.4 Hz), 4.78 (2H, d, J=6.4 Hz), 6.93-7.08 (4H, m), 7.31-7.35 (3H, m), 7.48-7.52 (2H, m).

reactant | (2-bromo-4-fluorophenyl)methanol | 4.65 mmol, 954 mg | BrC1=C(C=CC(=C1)F)CO | C7H6BrFO
reactant | 4-fluoro-1-vinylbenzene | 9.31 mmol, 1.14 g | FC1=CC=C(C=C1)C=C | C8H7F
reactant | Et3N | 9.31 mmol, 942 mg | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)2Cl2 | 0.07 mmol, 49 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [4-fluoro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methanol | 569 mg, 50% | FC1=CC(=C(C=C1)CO)\C=C\C1=CC=C(C=C1)F | C15H12F2O
